US07488820B2
Under an argon atmosphere, 2-methylresorcinol (10.0 g, 80.6 mmol) and phthalic anhydride (11.2 g, 75.6 mmol) were combined in dry nitrobenzene (250 mL). The mixture was cooled to 0° C. and aluminum(III) chloride (23.5 g, 176 mmol) was added in one portion. The resulting dark olive slurry was allowed to warm to room temperature and stirred for an additional 16 h under argon. The reaction was poured into a vigorously stirring mixture of hexanes (300 mL) and 1 M HCl (1 L). The precipitate was filtered and recrystallized twice from methanol/water to afford benzophenone 1 as a beige powder (16.0 g, 78% yield). 1H NMR (CD3OD, 500 MHz): δ 8.05 (1 H, dd, J1=8.0 Hz, J2=1.0 Hz), 7.62 (2 H, dt, J1=33.0 Hz, J2=9.0 Hz), 7.33 (1 H, d, J=7.5 Hz), 6.74 (1 H, d, J=8.5 Hz), 6.20 (1 H, d, J=8.5 Hz), 2.05 (3 H, s). HRMS (ESI) calcd for [M−H]− 271.0601, found 271.0601.

reactant | 2-methylresorcinol | 80.6 mmol, 10.0 g | CC1=C(O)C=CC=C1O | C7H8O2
reactant | phthalic anhydride | 75.6 mmol, 11.2 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | aluminum(III) chloride | 176 mmol, 23.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 1 M, 1 L | Cl | ClH
solvent | nitrobenzene | 250 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | benzophenone 1 | 16.0 g, 78% yield | C1=CC=C(C=C1)C(=O)C2=C(C=C(C=C2)O)O | C13H10O3
